US05506256
C) (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine
(2S)-1-(tert-Butoxycarbonyl)-2-(1-hydroxy-2-phenoxyethyl)-pyrrolidine (1.93 g) was dissolved in 31 ml of 4N hydrochloric acid/1,4-dioxane, and the mixture was,stirred at room temperature for 0.5 hour. The reaction mixture was concentrated to dryness, and the residue obtained was dissolved in DMF (15 ml), after which N-(tert-butoxycarbonyl)-L-proline (1.36 g), N-methylmorpholine (0.69 ml), and HOBt (1.02g) were added thereto. After the reaction mixture was cooled to -25° C., DCC (1.30 g) was added thereto, and the mixture was stirred at -25° C. to 0° C. for 3 hours, and then at room temperature for 16 hours. The precipitated dicyclohexylurea was filtered off, and the filtrate was concentrated. The residue was dissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate, and saturated brine successively, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (eluate: chloroform-methanol) to give 2.10 g of the title compound.

reactant | (2S)-1-(tert-Butoxycarbonyl)-2-(1-hydroxy-2-phenoxyethyl)-pyrrolidine | 1.93 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(COC1=CC=CC=C1)O | C17H25NO4
reactant | N-(tert-butoxycarbonyl)-L-proline | 1.36 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | N-methylmorpholine | 0.69 ml | CN1CCOCC1 | C5H11NO
reactant | HOBt | 1.02g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 1.30 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | hydrochloric acid 1,4-dioxane | 4N, 31 ml | Cl.O1CCOCC1
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine | 2.10 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=CC=C2)O)CCC1 | C22H32N2O5
